US09284315B2
(2) Preparation of tert-butyl 4-(4-((6-chloro-3-(hydroxymethyl)-1,5-naphthyridin-4-yl)amino)-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate
Methyl 4-((4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-(trifluoromethyl)phenyl)amino)-6-chloro-1,5-naphthyridine-3-carboxylate (0.565 g, 1.0 mmol) was added to ethanol (10 mL), to the system added sodium borohydride (0.228 g, 6 mmol) in batches, stirred at room temperature for 18 h. Ethanol was removed under reduced pressure, added 10 mL of water, and extracted with 80 mL of dichloromethane. The organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure to give 0.568 g of a crude solid product. The solid was directly used in the next step.

reactant | Methyl 4-((4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-(trifluoromethyl)phenyl)amino)-6-chloro-1,5-naphthyridine-3-carboxylate | 1.0 mmol, 0.565 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)NC1=C(C=NC2=CC=C(N=C12)Cl)C(=O)OC)C(F)(F)F | C26H27ClF3N5O4
reactant | sodium borohydride | 6 mmol, 0.228 g | [BH4-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-butyl 4-(4-((6-chloro-3-(hydroxymethyl)-1,5-naphthyridin-4-yl)amino)-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate | 0.568 g | ClC=1N=C2C(=C(C=NC2=CC1)CO)NC1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C25H27ClF3N5O3
